US06806327B2
Preparation of 10-bromo-5-methylene-5H-dibenzo[a,d]cycloheptene (4)
In a glove box, methyltriphenylphosphonium bromide (8.22 g, 23 mmol, 357.23 g/mol) was dissolved in 150 mL of THF in a flame-dried flask, and n-BuLi (9.21 mL, 23 mmol, 2.5 M in hexane) was added drop wise. The yellow mixture was stirred at ambient temperature for 30 min. and 10-bromo-5H-dibenzo[a,d]cyclohepten-5-one (6.55 g, 23 mmol, 285.14 g/mol) was added as a THF solution. The mixture was stirred and heated at reflux for two days. The cooled solution was taken out of glove box and diluted with 100 mL of hexane. A small amount of water was added to quench the excess reagent, and the mixture was filtered through a plug of silica gel. The silica was rinsed with additional hexane, and the filtrate was concentrated under reduced pressure. The residue was purified by chromatography on silica gel and eluted with ether/hexane (1:1) mixture by volume. Solvent was removed to yield 5.53 g (85 percent, 283.17 g/mol) of the title compound as a pale yellow oil that crystallized upon standing.

reactant | n-BuLi | 23 mmol, 2.5 M, 9.21 mL | [Li]CCCC
reactant | 10-bromo-5H-dibenzo[a,d]cyclohepten-5-one | 23 mmol, 6.55 g | BrC1=CC2=C(C(C3=C1C=CC=C3)=O)C=CC=C2 | C15H9BrO
reactant | water | O | H2O
catalyst | methyltriphenylphosphonium bromide | 23 mmol, 8.22 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | hexane | 100 mL | CCCCCC | C6H14
product | 10-bromo-5-methylene-5H-dibenzo[a,d]cycloheptene | BrC1=CC2=C(C(C3=C1C=CC=C3)=C)C=CC=C2 | C16H11Br
